US05580986
N-[1-(3-Chloro-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)-4-nitro-5-pyrazolyl]propionamide
8.72 g (29.7 mmol) N-[1-(3-Chloro-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)-5-pyrazolyl]propionamide was suspended in 33 ml acetic acid. Under ice cooling, at 0°-5° C., 3.31 g (32.5 mmol) acetic anhydride was added. 1.93 g (31 mmol) Fuming nitric acid was added dropwise. After stirring for 6 hours at room temperature, the mixture was concentrated. The residue was taken up in dichloromethane, neutralised with aqueous sodium hydrogen carbonate and washed with aqueous sodium chloride. The organic phase was dried over magnesium sulfate and concentrated. The residue was purified by silica gel chromatography (hexane/ethyl acetate 1:1).

reactant | N-[1-(3-Chloro-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)-5-pyrazolyl]propionamide | 29.7 mmol, 8.72 g | ClC=1C(=NN2C1CCCC2)N2N=CC=C2NC(CC)=O | C13H16ClN5O
reactant | acetic anhydride | 32.5 mmol, 3.31 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 33 ml | C(C)(=O)O | C2H4O2
product | N-[1-(3-Chloro-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)-4-nitro-5-pyrazolyl]propionamide | ClC=1C(=NN2C1CCCC2)N2N=CC(=C2NC(CC)=O)[N+](=O)[O-] | C13H15ClN6O3
